US06515130B1
Glacial acetic acid (526.9 g, 8.78 mol) was added dropwise at <−5° C. to a suspension of methyl 3-amino-3-(3-pyridyl)-2-propenoate (0.45 mol) and sodium borohydride (44.3 g, 1.17 mol) in THF (500 g) and the resulting reaction mixture was stirred at −5-0° C. After 5 h, methanol (600 g) was added dropwise to the solution at −5-0° C. After 0.5 hours, HCl (163 g, 4.47 mol) was bubbled through the solution and stirred at 0° C. After 8 h, the white precipitate was filtered off and dried at 40° C. to yield 101.6 g (89%) of methyl 3-Amino-3-(3-pyridyl)propanoate dihydrochloride.

reactant | acetic acid | 8.78 mol, 526.9 g | C(C)(=O)O | C2H4O2
reactant | methyl 3-amino-3-(3-pyridyl)-2-propenoate | 0.45 mol | NC(=CC(=O)OC)C=1C=NC=CC1 | C9H10N2O2
reactant | sodium borohydride | 1.17 mol, 44.3 g | [BH4-].[Na+]
reactant | HCl | 4.47 mol, 163 g | Cl | ClH
solvent | THF | 500 g | C1CCOC1 | C4H8O
solvent | methanol | 600 g | CO | CH4O
product | methyl 3-Amino-3-(3-pyridyl)propanoate dihydrochloride | 101.6 g, 89% | Cl.Cl.NC(CC(=O)OC)C=1C=NC=CC1 | InChI=1S/C9H12N2O2.2ClH/c1-13-9(12)5-8(10)7-3-2-4-11-6-7;;/h2-4,6,8H,5,10H2,1H3;2*1H
